US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 3,4-dimethoxyphenylethylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=C(C=CC(=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
product | 2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)OC)CC(=O)NCCC2=CC(=C(C=C2)OC)OC)C=CC1OC | C32H40N2O7
